US05843966
1-(3-[1,3]Dioxolan-2-yl-4methoxy-phenyl)-1H-tetrazole
To a suspension of 2-methoxy-5-tetrazol-1-yl-benzaldehyde (8 g) in toluene (400 ml), ethylene glycol (8 ml) and para-toluene sulphonic acid (50 mg) were added. The mixture was heated to reflux under Dean-Stark conditions and under a nitrogen atmosphere for 12 h whereupon evolution of water had ceased. The mixture was allowed to cool and the liquor decanted and extracted with 8% aqueous sodium bicarbonate solution (100 ml). The precipitated solid was dissolved in dichloromethane (200 ml) and then extracted with the aqueous layer. The aqueous layer was then extracted with dichloromethane (100 ml). The organic layers were then combined, dried (Na2SO4) and evaporated in vacuo to yield the title compound as a yellow solid (9.12 g).

reactant | 2-methoxy-5-tetrazol-1-yl-benzaldehyde | 8 g | COC1=C(C=O)C=C(C=C1)N1N=NN=C1 | C9H8N4O2
reactant | para-toluene sulphonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethylene glycol | 8 ml | C(CO)O | C2H6O2
product | 1-(3-[1,3]Dioxolan-2-yl-4methoxy-phenyl)-1H-tetrazole | 9.12 g | O1C(OCC1)C=1C=C(C=CC1OC)N1N=NN=C1 | C11H12N4O3
